US05712300
Preparation of tert-Butyl α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate
Diethyl azodicarboxylate (182 uL, 1.16 mmol) is added to a mixture of tert-butyl α-(2-hydroxyethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (468 mg, 1.16 mmol), triphenylphosphine (304 mg, 1.16 mmol), phthalimide (171 mg, 1.16 mmol) and THF (10 mL) at room temperature. The mixture is allowed to stir overnight and is concentrated. Purification by column chromatography (2 columns, 5% acetone/CH2Cl2 and 10% EtOAc/hexane) provided 327 mg (51%) of the title compound as a colorless oil.

reactant | Diethyl azodicarboxylate | 1.16 mmol, 182 uL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tert-butyl α-(2-hydroxyethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 1.16 mmol, 468 mg | OCCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C24H37NO4
reactant | triphenylphosphine | 1.16 mmol, 304 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 1.16 mmol, 171 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 327 mg, 51% | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C32H40N2O5
